US07087601B2
The 4-(cyanomethyl)-3-methoxybenzoic acid (0.33 g, 1.7 mmol) was suspended in anhydrous dichloromethane (5 mL) and treated with oxalyl chloride (0.3 mL, 3.5 mmol) followed by few drops of DMF at 22° C. under argon. After 2 h stirring, the resulting solution was concentrated to dryness, dissolved in dichloromethane (5 mL), and added slowly to a solution of trans-2-aminocyclohexanol hydrochloride (0.26 g, 1.7 mmol) and TEA (0.5 mL, 3.5 mmol) in anhydrous dichloromethane (10 mL). After 20 min stirring, filtered off salt, and concentrated to afford 4-(cyanomethyl)-N-[(2R)-2-hydroxycyclohexyl]-3-methoxybenzamide as a yellow solid. MS (ESI) 289 (M+H)+.

reactant | 4-(cyanomethyl)-3-methoxybenzoic acid | 1.7 mmol, 0.33 g | C(#N)CC1=C(C=C(C(=O)O)C=C1)OC | C10H9NO3
reactant | oxalyl chloride | 3.5 mmol, 0.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | trans-2-aminocyclohexanol hydrochloride | 1.7 mmol, 0.26 g | Cl.N[C@H]1[C@@H](CCCC1)O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(cyanomethyl)-N-[(2R)-2-hydroxycyclohexyl]-3-methoxybenzamide | C(#N)CC1=C(C=C(C(=O)NC2[C@@H](CCCC2)O)C=C1)OC | C16H20N2O3
